US05922727
1-[2-(Cyclopent-2-en-1-yl)ethyl]-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 2-(cyclopent-2-en-1-yl)ethyl bromide were reacted by the same method with example 40 to obtain the titled compound (123 mg).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 2-(cyclopent-2-en-1-yl)ethyl bromide | C1(C=CCC1)CCBr | C7H11Br
product | 1-[2-(Cyclopent-2-en-1-yl)ethyl]-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 123 mg, Yield(%): 32.3 | C1(C=CCC1)CCN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C23H28N2O3
